US08703165B2
4.2 g 1-Dimethylamino-4-hydroxy-piperidine-4-carbonitrile is dissolved in 30 ml of a hydrochloric acid solution in methanol (10% HCl in methanol) and the reaction mixture is stirred at room temperature for 2 days. After 24 hours, the reaction vessel is saturated with hydrochloric acid gas. To bring the reaction to completion, the mixture is diluted with 100 ml methanol, saturated with hydrochloric acid gas and further stirred at room temperature overnight, then neutralized under cooling by addition of 40 ml NaOH 30% (to pH 6) and a saturated aqueous potassium bicarbonate solution (to pH 8). The solution is concentrated, the residue partitioned between ethyl acetate and water, the water layer extracted with ethyl acetate, the combined organic layer dried over sodium sulfate, and the solvent evaporated. The residue is purified by chromatography on silica gel, with ethyl acetate/methanol/triethylamine as a solvent (gradient 95/2.5/2.5 to 90/5/5). Thus, 2.27 g 1-Dimethylamino-4-hydroxy-piperidine-4-carboxylic acid methyl ester is obtained. 1H-NMR (CDCl3): 3.78 ppm (s, 3H), 2.90 ppm (s, broad, 1H), 2.82 ppm (m, 2H), 2.70 ppm (m, 2H), 2.41 ppm (s, 6H), 2.11 ppm (m, 2H), 1.69 ppm (m, 2H).

reactant | 1-Dimethylamino-4-hydroxy-piperidine-4-carbonitrile | 4.2 g | CN(N1CCC(CC1)(C#N)O)C | C8H15N3O
reactant | NaOH | 40 ml, pH 6 | [OH-].[Na+]
reactant | potassium bicarbonate | pH 8 | C([O-])(O)=O.[K+]
solvent | hydrochloric acid | 30 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1-Dimethylamino-4-hydroxy-piperidine-4-carboxylic acid methyl ester | 2.27 g | COC(=O)C1(CCN(CC1)N(C)C)O | C9H18N2O3
